US07247639B2
By the method of Example 3, 8-benzyl-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine, is reacted with sodium carbonate, 1,2-dichloroethane and ethylamine to yield 8-benzyl-7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine. By the method of Example 4, 8-benzyl-7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-8-benzyl-7-(2-ethylamino)ethyl-1-propylxanthine free base. The corresponding dihydrochloride salt is then made on exposure to an excess of hydrogen chloride in solution.

reactant | 8-benzyl-7-(2-ethylamino)ethyl-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1CCNCC)=O)CCC)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C27H32N6O4
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 3-[2-(4-aminophenyl)ethyl]-8-benzyl-7-(2-ethylamino)ethyl-1-propylxanthine | NC1=CC=C(C=C1)CCN1C(N(C(C=2N(C(=NC12)CC1=CC=CC=C1)CCNCC)=O)CCC)=O | C27H34N6O2
